US04925838
A solution of (2S,4S)-2-[(4-methanesulfonyloxypiperizin-1-yl)methyl]-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (4.38 g) and sodium azide (1.19 g) in N,N-dimethylformamide (40 ml) was stirred at 90°-100° C. for 2 hours. The reaction mixture was poured into ice-water (300 ml) and extracted 3 times with saturated aqueous sodium chloride, dried over magnesium sulfate, and evaporated in vacuo. The resulting residue was chromatographed on silica gel (150 g) eluting with a mixture of dichloromethane and acetone (10:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-2-[(4-azidopiperizin-1-yl)methyl]-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (2.51 g).

reactant | (2S,4S)-2-[(4-methanesulfonyloxypiperizin-1-yl)methyl]-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 4.38 g | CS(=O)(=O)ON1CCN(CC1)C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C37H40N4O7S2
reactant | sodium azide | 1.19 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-2-[(4-azidopiperizin-1-yl)methyl]-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 2.51 g | N(=[N+]=[N-])N1CCN(CC1)C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C36H37N7O4S
